US04689426
0.2 ml of 30% aqueous hydrogen peroxide was added to a solution of 100 mg (0.25 mmol) of 4-(3-hydroxy-1-octenyl)-5-[3-(1-methoxycarbonylethyloxy)-phenylmethylidene]-2-cyclopentenone in 2 ml of methanol under ice cooling and stirring, and then 50 microliters of 1N sodium hydroxide was added. The mixture was stirred at 0° C. for 20 minutes. A saturated aqueous solution of ammonium chloride was added, and the mixture was extracted with hexane. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The dried product was filtered and concentrated to give an oily product. The product was dissolved in 3 ml of acetone, and 0.5 ml of concentrated hydrochloric acid was added. The mixture was stirred for 50 minutes. A saturated aqueous solution of sodium hydrogen carbonate was added, and the mixture was extracted with ethylacetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The dried product was filtered, concentrated and subjected to silica gel column chromatography (silica gel, 10 g; eluent, cyclohexane:ethylacetate=4:1) to give 45 mg (yield 41%) of 2-chloro-4-(3-hydroxy-1-octenyl)-5-[3-(1-methoxycarbonylethyloxy)phenylmethylidene]-2-cyclopentenone.

reactant | hydrogen peroxide | 0.2 ml | OO | H2O2
reactant | 4-(3-hydroxy-1-octenyl)-5-[3-(1-methoxycarbonylethyloxy)-phenylmethylidene]-2-cyclopentenone | 0.25 mmol, 100 mg | OC(C=CC1C=CC(C1=CC1=CC(=CC=C1)OC(C)C(=O)OC)=O)CCCCC | C24H30O5
reactant | sodium hydroxide | 1N, 50 microliters | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 2-chloro-4-(3-hydroxy-1-octenyl)-5-[3-(1-methoxycarbonylethyloxy)phenylmethylidene]-2-cyclopentenone | 45 mg, yield 41% | ClC=1C(C(C(C1)C=CC(CCCCC)O)=CC1=CC(=CC=C1)OC(C)C(=O)OC)=O | C24H29ClO5
